* source NE555
X_U1         N15947 N14737 N15075 0 N15947 0 OUTA 0 awb555 PARAMS:       
X_U2         N15635 N14939 N16693 0 N15635 0 OUTB 0 awb555 PARAMS:       
X_U3         N15773 N15021 N18192 0 N15773 0 OUTC 0 awb555 PARAMS:       
X_U4         0 N15075 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
C_C1         0 N14737  0.01uF  TC=0,0 
C_C2         0 N14939  0.01uF  TC=0,0 
C_C3         0 N15021  0.01uF  TC=0,0 
C_Ca         0 N15947  10uF  TC=0,0 
C_Cb         0 N15635  4.7uF  TC=0,0 
C_Cc         0 N15773  14.7uF  TC=0,0 
R_RA         N15947 0  100k TC=0,0 
R_RB         N15635 0  100k TC=0,0 
R_RC         N15773 0  100k TC=0,0 
C_C4         N16693 OUTA  0.001uF  TC=0,0 
R_RA1         N16693 0  33k TC=0,0 
C_C5         N18192 OUTB  0.001uF  TC=0,0 
R_RA2         N18192 0  33k TC=0,0 
